US05013477
A suspension of 5.19 g of methyl-triphenylphosphonium bromide in 80 ml of diethyl ether was treated with 1.55 g of potassium tert.butylate while gassing with nitrogen. The yellow suspension was stirred at room temperature for a further 45 minutes and then treated dropwise at 0° C. with a solution of 2.3 g of 4-[trans-4-[trans-4-(4-fluorophenyl)cyclohexyl]cyclohexyl]butyraldehyde. The reaction mixture was stirred at 0° C. for a further 2 hours and then diluted with 60 ml of water. The aqueous phase was separated and extracted twice with 60 ml of hexane each time. The combined organic phases were washed neutral with water, dried over sodium sulfate, filtered and concentrated. Chromatographic purification of the residue on silica gel with hexane gave 1.89 g of crude product. After two-fold recrystallization from acetone at -20° C. there were obtained 1.22 g of 1-[trans-4-[trans-4-(4-pentenyl)cyclohexyl]cyclohexyl]-4-fluorobenzene with m.p. (C-N) 65.7° C. and cl.p. (N-I) 129.7° C.

reactant | 4-[trans-4-[trans-4-(4-fluorophenyl)cyclohexyl]cyclohexyl]butyraldehyde | 2.3 g | FC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC=O | C22H31FO
reactant | diethyl ether | 80 ml | C(C)OCC | C4H10O
catalyst | methyl-triphenylphosphonium bromide | 5.19 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 60 ml | O | H2O
product | 1-[trans-4-[trans-4-(4-pentenyl)cyclohexyl]cyclohexyl]-4-fluorobenzene | 1.22 g | C(CCC=C)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)F | C23H33F
